US04927814
4 g. 4-Amino-1-hydroxybutane-1,1-diphosphonic acid are dissolved in 64 ml. 1N aqueous sodium hydroxide solution, mixed with 3.8 ml. isovaleraldehyde and, after the addition of 2.5 g. of 10% palladium-charcoal, hydrogenated at a pressure of 5 bar. The course of the reaction is monitored electrophoretically until the starting material has disappeared. The reaction mixture is filtered, acidified with Amberlite R 120 (H+ form) and evaporated until crystallisation commences, 1.3 g. of crystals thus being obtained in a yield of 20% of theory; m.p. 225°-227° C. (decomp.); Mrel =0.39. 1-Hydroxy-4-(N-3-methylbutylamino)-butane-1,1-diphosphonic acid remaining in the mother liquor, which is formed as an intermediate, can be used again for the reductive alkylation.

reactant | 4-Amino-1-hydroxybutane-1,1-diphosphonic acid | NCCCC(P(O)(=O)O)(P(O)(=O)O)O | C4H13NO7P2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
catalyst | palladium-charcoal | [Pd] | Pd
product | 1-Hydroxy-4-(N-3-methylbutylamino)-butane-1,1-diphosphonic acid | yield of 20% | OC(CCCNCCC(C)C)(P(O)(=O)O)P(O)(=O)O | C9H23NO7P2
